US09334269B2
To a solution of 3-fluoro-5-nitrobenzonitrile (1.0 g, 6.02 mmoL) in TFA (8 mL) was added water (1 mL) and conc. sulfuric acid (2 mL). The reaction mixture was heated to 70° C. and stirred for 24 h. Then the reaction mixture was cooled to 0° C. and liquid ammonia solution was added. The solidified solid was filtered through Celite® (diatomaceous earth) and washed with water to obtain 3-fluoro-5-nitrobenzamide (0.400 g, 36%) as an off white solid. Observed mass (M−1): 183.02.

reactant | 3-fluoro-5-nitrobenzonitrile | 1.0 g | FC=1C=C(C#N)C=C(C1)[N+](=O)[O-] | C7H3FN2O2
reactant | water | 1 mL | O | H2O
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
solvent | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-fluoro-5-nitrobenzamide | 0.400 g, 36% | FC=1C=C(C(=O)N)C=C(C1)[N+](=O)[O-] | C7H5FN2O3
